US05523325
In 50 g of water is dissolved 36.0 g (442 mmole) of dimethylamine hydrochloride. 50 g of ice and 36 g (450 mmole) of 50% sodium hydroxide solution are added. While maintaining the internal temperature below 10° C, 35 g (208 mmole) of 4-ethylbenzoyl chloride is added. The mixture is stirred 20 minutes, extracted with ethyl ether, dried over anhydrous magnesium sulfate and concentrated in vacuo to yield 36.2 g of N,N-dimethyl-4-ethylbenzamide.

reactant | dimethylamine hydrochloride | 442 mmole, 36.0 g | Cl.CNC
reactant | sodium hydroxide | 450 mmole, 36 g | [OH-].[Na+]
reactant | 4-ethylbenzoyl chloride | 208 mmole, 35 g | C(C)C1=CC=C(C(=O)Cl)C=C1 | C9H9ClO
solvent | water | 50 g | O | H2O
product | N,N-dimethyl-4-ethylbenzamide | 36.2 g | CN(C(C1=CC=C(C=C1)CC)=O)C | C11H15NO
